US08604029B2
A mixture of 2-isopropyl-4-nitro-benzoic acid (0.23 g, 1.10 mmol), 2-bromoethanol (1.0 mL, 14.1 mmol) and conc. sulfuric acid (0.2 mL) was heated at 80° C. overnight. The mixture was cooled to r.t., diluted with water and extracted twice with ethyl acetate. The organic phase was washed with sat. sodium bicarbonate solution, water and brine then dried over sodium sulfate and concentrated. The crude product was purified by column chromatography on silica (60-120 mesh), eluting with 7% ethyl acetate/petroleum ether, to afford 2-isopropyl-4-nitro-benzoic acid 2-bromo-ethyl ester (0.24 g, 69%) as a colourless oil.

reactant | 2-isopropyl-4-nitro-benzoic acid | 1.10 mmol, 0.23 g | C(C)(C)C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C10H11NO4
reactant | 2-bromoethanol | 14.1 mmol, 1.0 mL | BrCCO | C2H5BrO
reactant | sulfuric acid | 0.2 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-isopropyl-4-nitro-benzoic acid 2-bromo-ethyl ester | 0.24 g, 69% | BrCCOC(C1=C(C=C(C=C1)[N+](=O)[O-])C(C)C)=O | C12H14BrNO4
